US06998412B2
2-[3-{[5-Methyl-2-(p-tolyl)oxazol-4-yl]methyl}benzyl]-1,3-propanediol
To 30 ml of dry tetrahydrofuran, 854 mg of lithium aluminium hydride was added, and 3.94 g of diethyl 3-{[5-methyl-2-(p-tolyl)oxazol-4-yl]methyl}benzylmalonate/10 ml of dry tetrahydrofuran was added dropwise with stirring under ice-cooling. The mixture was stirred for 1.5 hours at room temperature and cooled with ice-cold water. To the mixture were added dropwise 0.85 ml of water, 0.85 ml of 15% sodium hydroxide solution and 2.5 ml of water sequentially, and stirred for 15 minutes. The mixture was filtrated to remove insolubles, and the filtrate was concentrated. The residue was dissolved into ethyl acetate and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (Wakogel® C-200, chloroform:methanol=20:1) to provide 2.32 g of the objective compound as colorless crystals. M.p. 114–115° C.

reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
reactant | lithium aluminium hydride | 854 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | diethyl 3-{[5-methyl-2-(p-tolyl)oxazol-4-yl]methyl}benzylmalonate | 10 ml, 3.94 g | CC1=C(N=C(O1)C1=CC=C(C=C1)C)CC=1C=C(CC(C(=O)OCC)C(=O)OCC)C=CC1 | C26H29NO5
reactant | sodium hydroxide | 0.85 ml | [OH-].[Na+]
solvent | water | 2.5 ml | O | H2O
solvent | water | 0.85 ml | O | H2O
product | 2-[3-{[5-Methyl-2-(p-tolyl)oxazol-4-yl]methyl}benzyl]-1,3-propanediol | 2.32 g | CC1=C(N=C(O1)C1=CC=C(C=C1)C)CC=1C=C(CC(CO)CO)C=CC1 | C22H25NO3
